US07687502B2
[2-({4-[(1-Methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)pyridin-3-yl]methanol
The compound of Example 124 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 2-chloro-3-hydroxymethylpyridine, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 2-chloro-3-hydroxymethylpyridine | ClC1=NC=CC=C1CO | C6H6ClNO
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | [2-({4-[(1-Methyl-1H-pyrazol-3-yl)amino]quinazolin-6-yl}oxy)pyridin-3-yl]methanol | CN1N=C(C=C1)NC1=NC=NC2=CC=C(C=C12)OC1=NC=CC=C1CO | C18H16N6O2
